US04914112
A mixture of 2-(2-fluoro-4-biphenylyl)propionic acid (5.00 g, 20.5 mmol) and thionyl chloride (10 ml) in benzene (50 ml) was stirred under reflux for 4 hr and the solution was evaporated under reduced pressure to afford the acid chloride. After the acid chloride was dissolved in acetone (15 ml), the solution was added to cyanamide (1.44 g, 30.8 mmol) in 2N-NaOH (16 ml) by portions at 0°-5° C. The mixture was controlled above pH 10 by 2N-NaOH during addition. After the addition, the mixture was stirred at room temperature for 15 hr, then diluted with water, acidified with 1N-HCl to pH 6 and extracted with ether. The water phase was acidified with 1N-HCl to pH 3 and then extracted with chloroform. The chloroform extracts were washed with saturated NaCl aq., dried with magnesium sulfate, then evaporated under reduced pressure to a residue, which was chlomatographed to afford N-(2-(2-fluoro-4-biphenylyl)propionyl)cyanamide. To hydroxylamine hydrochloride (2.20 g, 30.4 mmol) in pyridine (5 ml) was added N-(2-(2-fluoro-4-biphenylyl)propionyl)cyanamide in ethanol (15 ml) by portion under cooling for 15 minute and the mixture was stirred at room temperature for 1 hr, then standed at room temperature overnight. To the reaction mixture was added 2N-NaOH (40 ml) to afford the precipitates. The precipitates were collected, washed with water, dried and recrystallized with ethyl acetate to afford 3-amino-5-(1-(2-fluoro-4-biphenylyl)ethyl)-1,2,4-oxadiazole (3.00 g, 52% yield): mp 174.5°-175.0° C.

reactant | hydroxylamine hydrochloride | 30.4 mmol, 2.20 g | Cl.NO
reactant | N-(2-(2-fluoro-4-biphenylyl)propionyl)cyanamide | FC1=C(C=CC(=C1)C(C(=O)NC#N)C)C1=CC=CC=C1 | C16H13FN2O
reactant | NaOH | 40 ml | [OH-].[Na+]
solvent | pyridine | 5 ml | N1=CC=CC=C1 | C5H5N
solvent | ethanol | 15 ml | C(C)O | C2H6O
product | 3-amino-5-(1-(2-fluoro-4-biphenylyl)ethyl)-1,2,4-oxadiazole | 3.00 g, 52% yield | NC1=NOC(=N1)C(C)C1=CC(=C(C=C1)C1=CC=CC=C1)F | C16H14FN3O
